US08802864B2
c) 4-(4-bromo-2-fluorophenyl)-2-propanoyl-5-[(1-propanoyl-3-azetidinyl)methyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
In a 250 mL round bottom flask equipped with reflux condenser and stir bar, a mixture of 1,1-dimethylethyl 3-[2-(2-{[(4-bromo-2-fluorophenyl)amino]carbonyl}hydrazino)-2-oxoethyl]-1-azetidinecarboxylate (15.18 mmol) and potassium carbonate (76 mmol) in 1-propanol (20 mL) and water (100 mL) was stirred at reflux (oil bath, 130° C.) for 27 h. The reaction mixture was cooled to room temperature, concentrated in vacuo, and diluted with water (50 mL) and ethyl acetate (50 mL). The layers were separated and the aqueous layer was acidified to pH˜5 using 1N aq HCl and extracted with ethyl acetate (2×100 mL). The organic layers were combined, dried over magnesium sulphate, and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-10% methanol/ethyl acetate) provided 1.5 g of material containing both starting material and BOC-protected product. To this flask was added water (50 mL) and potassium carbonate (14.47 mmol). The reaction was stirred at reflux (oil bath, 130° C.) for 16 h. The reaction was cooled to room temperature and concentrated in vacuo to give the unprotected cyclized product. To this was added 1N aq sodium hydroxide (50 mL) followed by di-tert-butyl dicarbonate (15.18 mmol) and the reaction was stirred overnight. The reaction was cooled to room temperature, concentrated in vacuo and diluted with ethyl acetate (50 mL) and water (10 mL). The layers were separated and the aqueous layer was acidified to pH 5 using 1N aq HCl. The aqueous layer was extracted with ethyl acetate (2×100 mL). The organic layers were combined, dried over magnesium sulphate and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-5% methanol/ethyl acetate) did not provide any desired products. The aqueous layer was concentrated in vacuo and treated with dichloromethane (50 mL) and N,N-diisopropylethylamine (28.6 mmol). The reaction mixture was stirred for 5 min at room temperature and then propionyl chloride (15.18 mmol) was added by syringe. The reaction was stirred for 1 h at room temperature. Analysis by LCMS showed that the reaction was complete for 4-(4-bromo-2-fluorophenyl)-5-[(1-propanoyl-3-azetidinyl)methyl]-2,4-dihydro-3H-1,2,4-triazol-3-one [M+H]+=383.0, 384.7. The reaction was quenched with water (20 mL) and the layers were separated. The aqueous layer was acidified to pH 5 using 1N HCl solution and extracted with ethyl acetate (2×50 mL). The organic layers were combined, dried over magnesium sulphate, and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-5% methanol/ethyl acetate) provided the title compound as an off-white solid (277 mg, 3% yield). MS(ES)+ m/e 439.2, 441.1 [M+H]+.

reactant | potassium carbonate | 14.47 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1N, 50 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 15.18 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-diisopropylethylamine | 28.6 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | propionyl chloride | 15.18 mmol | C(CC)(=O)Cl | C3H5ClO
reactant | 4-(4-bromo-2-fluorophenyl)-5-[(1-propanoyl-3-azetidinyl)methyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | BrC1=CC(=C(C=C1)N1C(NN=C1CC1CN(C1)C(CC)=O)=O)F | C15H16BrFN4O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 4-(4-bromo-2-fluorophenyl)-2-propanoyl-5-[(1-propanoyl-3-azetidinyl)methyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 277 mg, 3% yield | BrC1=CC(=C(C=C1)N1C(N(N=C1CC1CN(C1)C(CC)=O)C(CC)=O)=O)F | C18H20BrFN4O3
